US07504392B2
b) (4-Bromo-phenyl)-methyl-amine
To a solution of N-(4-Bromo-phenyl)-formamide D32a (8.2 g, 41 mmol) in dry THF (100 mL) was added BF3.Et2O (8.2 mL, 61 mmol). The mixture was heated to reflux and BH3. THF (103 mL, 103 mmol) added dropwise, the mixture was heated for a further 2 hours. After cooling to room temperature concentrated HCl (100 mL) was added and the mixture stirred for one hour. The pH of the mixture was adjusted to pH 13 using concentrated NaOH. Extraction with ether, drying over MgSO4 and evaporating to dryness gave the subtitled compound as light brown oil (7.58 g). MH+ 186/188. 1H NMR δ (CDCl3) 2.81 (3H, s), 3.63-3.78 (1H, br.s), 6.43-6.52 (2H, d), 7.22-7.30 (2H, d).

reactant | N-(4-Bromo-phenyl)-formamide | BrC1=CC=C(C=C1)NC=O | C7H6BrNO
reactant | BF3.Et2O | 61 mmol, 8.2 mL | B(F)(F)F.CCOCC
reactant | HCl | 100 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 103 mmol, 103 mL | C1CCOC1 | C4H8O
product | (4-Bromo-phenyl)-methyl-amine | 7.58 g | BrC1=CC=C(C=C1)NC | C7H8BrN
